US04219559
A mixture of 6 parts of N-{2-[(4-fluorophenylmethyl)amino]phenyl}-N'-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]thiourea, 3.2 parts of mercury (II) oxide, 0.1 parts of sulfur. and 90 parts of tetrahydrofuran is stirred and refluxed for 3 hours. The reaction mixture is filtered over Hyflo and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2-propanone and 2,2'-oxybispropane, yielding 1.2 parts (20%) of 1-(4-fluorophenylmethyl)-N-[1-{2-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]ethyl}-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 196.9° C.

reactant | N-{2-[(4-fluorophenylmethyl)amino]phenyl}-N'-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]thiourea | FC1=CC=C(C=C1)CNC1=C(C=CC=C1)NC(=S)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C35H37F2N7S
reactant | sulfur | [S] | S
catalyst | mercury (II) oxide | [Hg]=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(4-fluorophenylmethyl)-N-[1-{2-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]ethyl}-4-piperidinyl]-1H-benzimidazol-2-amine | 20% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=NC1=C(N2CC2=CC=C(C=C2)F)C=CC=C1 | C35H35F2N7
